US04804760
(b) 2,4-Dichloro-5-fluoro-3-nitro-benzoyl chloride
106.6 g of 2,4-dichloro-5-fluoro-3-nitro-benzoic acid are refluxed with 250 ml of thionyl chloride for 2 hours. The excess thionyl chloride is then removed by distillation at atmospheric pressure and the residue is fractionated in a high vacuum. 104.7 g of 2,4-dichloro-5-fluoro-3-nitro-benzoyl chloride pass over at 110°-115° C./0.08-0.09 mbar. On standing, crystals of melting point 35°-37° C. form.

reactant | 2,4-dichloro-5-fluoro-3-nitro-benzoic acid | 106.6 g | ClC1=C(C(=O)O)C=C(C(=C1[N+](=O)[O-])Cl)F | C7H2Cl2FNO4
reactant | thionyl chloride | 250 ml | S(=O)(Cl)Cl | Cl2OS
product | 2,4-Dichloro-5-fluoro-3-nitro-benzoyl chloride | ClC1=C(C(=O)Cl)C=C(C(=C1[N+](=O)[O-])Cl)F | C7HCl3FNO3
